US07291642B2
13a) 3-(4-Cyanophenyl)-N-{3-[(2,3-dichlorobenzenesulphonyl)methyl-amino]propyl}propionamide
A solution of 1.47 g (8.41 mmol) of 4-cyanophenylpropionic acid, 3.1 g (9.65 mmol) of TBTU and 5.0 ml of triethylamine in 150 ml of tetrahydrofuran was stirred at room temperature for 30 minutes, 2.5 g (8.41 mmol) of N-(3-aminopropyl)-2,3-dichloro-N-methylbenzenesulphonamide were than added and the mixture was stirred overnight. The mixture was evaporated to dryness, potassium carbonate solution (10%) was added to the residue and the mixture was extracted with ethyl acetate. The organic phase was washed with water and saturated sodium chloride solution, drive over sodium sulphate and concentrated. The crude product obtained in this manner was purified by column chromatography (mobile phase: dichloromethane/methanol 150:1 to 100:1).

reactant | 4-cyanophenylpropionic acid | 8.41 mmol, 1.47 g | C(#N)C1=CC=C(C=C1)C(C(=O)O)C | C10H9NO2
reactant | TBTU | 9.65 mmol, 3.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 5.0 ml | C(C)N(CC)CC | C6H15N
reactant | N-(3-aminopropyl)-2,3-dichloro-N-methylbenzenesulphonamide | 8.41 mmol, 2.5 g | NCCCN(S(=O)(=O)C1=C(C(=CC=C1)Cl)Cl)C | C10H14Cl2N2O2S
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-(4-Cyanophenyl)-N-{3-[(2,3-dichlorobenzenesulphonyl)methyl-amino]propyl}propionamide | C(#N)C1=CC=C(C=C1)CCC(=O)NCCCNCS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl | C20H21Cl2N3O3S
